US04816582
1 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-bromoethoxy)imino]-acetate in 20 ml of dimethylformamide is warmed to 50° C. for 12 hours with 9.5 g of sodium azide. The mixture is diluted with ethyl acetate, washed three times with water, dried over magnesium sulphate and evaporated. After recrystallization from acetone/isopropanol, there is obtained 0.85 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-azidoethoxy)imino]-acetate of melting point 123°-124° C.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-bromoethoxy)imino]-acetate | 1 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCBr | C9H12BrN3O3S
reactant | sodium azide | 9.5 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-azidoethoxy)imino]-acetate | 0.85 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCN=[N+]=[N-] | C9H12N6O3S
